US08604034B2
7-bromo-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (50 mg, 0.14 mmol), pyridine-3-boronic acid (18.5 mg, 0.15 mmol), dichlorobis(triphenylphosphine)palladium(II) (1.9 mg, 2.7 μmol) and sodium carbonate (22 mg, 0.21 mmol) were suspended in a mixture of 1,2-dimethoxyethane (1.4 mL), ethanol (200 μL) and water (300 μL). The reaction vessel was flushed with argon, sealed and heated in a microwave reactor at 150° C. for 10 min. After this time water (50 mL) was added and the mixture extracted with CH2Cl2. The organic layer was separated, dried (MgSO4) and concentrated in vacuo to give a crude mixture. This mixture was purified by flash chromatography (Biotage SP4, 12 g cartridge, 0-10% MeOH gradient in CH2Cl2) to give 10a-(4-chlorophenyl)-7-(pyridin-3-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one as a white solid (20 mg, 40% yield). 1H NMR (400 MHz, d6-acetone): δ 3.30-3.31 (m, 1H), 3.33-3.40 (m, 1H), 3.43-3.50 (m, 1H). 3.75 (dt, 1H, J 10.8, 8.0 Hz), 4.46 (d, 1H, J 12.4 Hz), 4.74 (d, 1H, J 12.4 Hz), 7.14 (d, 1H, J 1.8 Hz), 7.23 (d, 1H, J 1.8 Hz), 7.27 (ddd, 1H, J 8.0, 4.8, 0.9 Hz), 7.32-7.36 (m, 2H), 7.40-7.44 (m, 2H), 7.85 (ddd, 1H, J 7.9, 2.4, 1.7 Hz), 8.34 (dd, 1H, J 4.7, 1.6 Hz), 8.75 (dd, 1H, J 2.4, 0.8 Hz).

reactant | 7-bromo-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.14 mmol, 50 mg | BrC=1C=C2N(CC3(N(C2=O)CCN3)C3=CC=C(C=C3)Cl)C1 | C15H13BrClN3O
reactant | pyridine-3-boronic acid | 0.15 mmol, 18.5 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 0.21 mmol, 22 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 200 μL | C(C)O | C2H6O
solvent | 1,2-dimethoxyethane | 1.4 mL | COCCOC | C4H10O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 2.7 μmol, 1.9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 300 μL | O | H2O
product | 10a-(4-chlorophenyl)-7-(pyridin-3-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 20 mg, 40% yield | ClC1=CC=C(C=C1)C12N(C(C=3N(C1)C=C(C3)C=3C=NC=CC3)=O)CCN2 | C20H17ClN4O
